*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.002/0.002
*-- die chiplet5:  metal layers: 2


.subckt chiplet5
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
*-- p/g port #: 8/8
+nd_1_0_1000_5000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
id_0_0_0_0 nd_1_0_1000_1000 0 0.00779711
id_0_0_0_1 nd_1_0_3000_1000 0 0.00851791
id_0_0_0_2 nd_1_0_5000_1000 0 0.00135376
id_0_0_0_3 nd_1_0_7000_1000 0 0.00654016
id_0_0_0_4 nd_1_0_9000_1000 0 0.00275442
id_0_0_0_5 nd_1_0_1000_3000 0 0.000173354
id_0_0_0_6 nd_1_0_3000_3000 0 0.000833157
id_0_0_0_7 nd_1_0_5000_3000 0 0.00736634
id_0_0_0_8 nd_1_0_7000_3000 0 0.00347761
id_0_0_0_9 nd_1_0_9000_3000 0 0.00872806
id_0_0_0_10 nd_1_0_1000_5000 0 0.00163068
id_0_0_0_11 nd_1_0_3000_5000 0 0.00679953
id_0_0_0_12 nd_1_0_5000_5000 0 0.00299255
id_0_0_0_13 nd_1_0_7000_5000 0 0.00040485
id_0_0_0_14 nd_1_0_9000_5000 0 0.00104361
id_0_0_0_15 nd_1_0_1000_7000 0 0.00759965
id_0_0_0_16 nd_1_0_3000_7000 0 0.00371194
id_0_0_0_17 nd_1_0_5000_7000 0 0.00441162
id_0_0_0_18 nd_1_0_7000_7000 0 0.00643383
id_0_0_0_19 nd_1_0_9000_7000 0 0.0070681
id_0_0_0_20 nd_1_0_1000_9000 0 0.00771659
id_0_0_0_21 nd_1_0_3000_9000 0 0.00515848
id_0_0_0_22 nd_1_0_5000_9000 0 0.0012719
id_0_0_0_23 nd_1_0_7000_9000 0 0.00330668
id_0_0_0_24 nd_1_0_9000_9000 0 0.00401921
is_0_0_0_0 0 ns_1_0_0_0 0.00859784
is_0_0_0_1 0 ns_1_0_2000_0 0.00422034
is_0_0_0_2 0 ns_1_0_4000_0 0.00130724
is_0_0_0_3 0 ns_1_0_6000_0 0.00199556
is_0_0_0_4 0 ns_1_0_8000_0 0.00435435
is_0_0_0_5 0 ns_1_0_0_2000 0.00506539
is_0_0_0_6 0 ns_1_0_2000_2000 0.000682701
is_0_0_0_7 0 ns_1_0_4000_2000 0.00814315
is_0_0_0_8 0 ns_1_0_6000_2000 0.00369737
is_0_0_0_9 0 ns_1_0_8000_2000 0.00449184
is_0_0_0_10 0 ns_1_0_0_4000 0.00676012
is_0_0_0_11 0 ns_1_0_2000_4000 0.00753348
is_0_0_0_12 0 ns_1_0_4000_4000 0.00829903
is_0_0_0_13 0 ns_1_0_6000_4000 0.00533843
is_0_0_0_14 0 ns_1_0_8000_4000 0.000934401
is_0_0_0_15 0 ns_1_0_0_6000 0.00323709
is_0_0_0_16 0 ns_1_0_2000_6000 0.00403076
is_0_0_0_17 0 ns_1_0_4000_6000 0.00475577
is_0_0_0_18 0 ns_1_0_6000_6000 0.00184908
is_0_0_0_19 0 ns_1_0_8000_6000 0.00258586
is_0_0_0_20 0 ns_1_0_0_8000 0.00335656
is_0_0_0_21 0 ns_1_0_2000_8000 0.000453972
is_0_0_0_22 0 ns_1_0_4000_8000 0.00123583
is_0_0_0_23 0 ns_1_0_6000_8000 0.00870534
is_0_0_0_24 0 ns_1_0_8000_8000 0.00947961

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val152'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val153'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val154'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val155'
rd_add0 nd0 0 'esr31'
rd_add1 nd1 0 'esr32'
rd_add2 nd2 0 'esr33'
rd_add3 nd3 0 'esr34'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_6000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_4000_8000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_6000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_6000_6000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_8000_4000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_8000_8000  0.001

.ends chiplet5
